US07091346B1
500 mg (1.78 mmol) of 2-chloro-6-(3-chloro-phenyl-amino)-purine are dissolved in a mixture of 29.5 ml of DMF/water (85/15) and 5 ml of dioxane by means of gentle heating. 870 mg (2.67 mmol) of caesium carbonate, followed by 1.78 ml (17.8 mmol) of isopropyl iodide are added at room temperature. The reaction mixture is stirred at room temperature for 18 hours. To bring the reaction to completion, the reaction mixture is stirred at 45° C. for a further 24 hours. When the reaction has ended, the reaction mixture is diluted with ethyl acetate, washed with water (2 times) and saturated sodium chloride solution and dried over magnesium sulfate. After filtration, the filtrate is concentrated under reduced pressure at 35° C. and the residue is dried under an HV. The resulting crude product is purified by crystallization from diethyl ether/hexane. 2-Chloro-6-(3-chloro-phenyl-amino)-9-isopropyl-9H-purine is obtained; Rf=0.46 (ethyl acetate); m.p. 128–129° C.

reactant | 2-chloro-6-(3-chloro-phenyl-amino)-purine | 1.78 mmol, 500 mg | ClC1=NC(=C2NC=NC2=N1)NC1=CC(=CC=C1)Cl | C11H7Cl2N5
reactant | caesium carbonate | 2.67 mmol, 870 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | isopropyl iodide | 17.8 mmol, 1.78 ml | C(C)(C)I | C3H7I
solvent | DMF water | 29.5 ml | CN(C)C=O.O
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Chloro-6-(3-chloro-phenyl-amino)-9-isopropyl-9H-purine | ClC1=NC(=C2N=CN(C2=N1)C(C)C)NC1=CC(=CC=C1)Cl | C14H13Cl2N5
